US09328126B2
Synthesis of Dicyclohexylborane-Picoline Complex
Under a nitrogen atmosphere, to a THF solution of dicyclohexylborane (8 mL, 1 M) at 0° C., was added picoline (745 mg, 8 mmol). The reaction mixture was allowed to warm room temperature. Generally the dicyclohexylborane-picoline complex is not isolated but used in solution as a hydroboration reagent.

reactant | dicyclohexylborane | 1 M, 8 mL | C1(CCCCC1)BC1CCCCC1 | C12H23B
reactant | picoline | 8 mmol, 745 mg | N1=C(C=CC=C1)C | C6H7N
solvent | THF | C1CCOC1 | C4H8O
product | Dicyclohexylborane Picoline | C1(CCCCC1)BC1CCCCC1.N1=C(C=CC=C1)C | InChI=1S/C12H23B.C6H7N/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;1-6-4-2-3-5-7-6/h11-13H,1-10H2;2-5H,1H3
